US08895571B2
1,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
A solution of 1,4-dimethyl-1H-pyrazole (480.0 mg, 4.993 mol) in tetrahydrofuran (20 mL, 300 mmol) at 0° C. was added 1.6 M n-butyllithium in hexane (4.7 mL, 7.5 mmol). The solution was stirred at room temperature for 1 h and then cooled to −78° C. To the solution was added 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.63 mL, 7.99 mmol). The reaction mixture was stirred at −78° C. for 0.5 h, then warmed up to 0° C. (taking 0.5 h). The reaction was quenched with brine and extracted with EtOAc (3×). The combined organic phases were washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by combi-flash chromatography and eluted with EtOAc/hexane (0-60%). The purification gave 142 mg of product as white solid.

reactant | 1,4-dimethyl-1H-pyrazole | 4.993 mol, 480.0 mg | CN1N=CC(=C1)C | C5H8N2
reactant | tetrahydrofuran | 300 mmol, 20 mL | O1CCCC1 | C4H8O
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 7.5 mmol, 4.7 mL | CCCCCC | C6H14
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 7.99 mmol, 1.63 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
product | 1,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 142 mg | CN1N=CC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H19BN2O2
